US04051076
5,5,7-trimethyltricyclo[6.4.0.02,7 ]dodecane-3-one
To a photoreactor fitted with a quartz immersion well and nitrogen bubbler was added, under nitrogen, 30.0 g. (0.217 mol.) of isophorone and 145 ml. of freshly distilled cyclohexene. Enough dichloromethane was added to fill the 825 ml. internal volume of the photoreactor. After the solution was bubbled with nitrogen for 1 hour, it was irradiated through a Corning 9700 glass filter for 71/4 hours with an Hanovia 450 watt medium pressure mercury arc. At the end of this period, the solution was concentrated in vacuo to yield an oil which was distilled through a short Vigreux-column. The product, which is a mixture of two major isomers in approximately a 3:1 ratio had b.p. 93°-106° C./0.2 mm.Hg. Yield 39.2 g. (0.178 mol., 82% yield). The two major isomers could be separated by distillation on a spinning band column. Isomer A: b.p. 85° C./0.1 mm.Hg. m.p. 76.6°-77.4° C., IR: 1690 cm-1 ; NMR: (deuterochloroform) 1.20δ (S-3H); 1.07δ (S-3H); 0.90δ (S-3H); 1.32δ-2.70δ (complex multiplets-15H). Isomer B: b.p. 95° C./0.1 mm.Hg. IR: 1690 cm-1, NMR: (deuterochloroform); 1.08δ, 1.05δ (2 singlets-6H); 0.90δ (S-3H) 1.18δ-2.82δ (multiplets-15H).

reactant | isophorone | 0.217 mol | O=C1C=C(CC(C)(C)C1)C | C9H14O
reactant | cyclohexene | C1=CCCCC1 | C6H10
reactant | dichloromethane | ClCCl | CH2Cl2
product | 5,5,7-trimethyltricyclo[6.4.0.02,7 ]dodecane-3-one | 82% yield | CC1(CC(C2C3CCCCC3C2(C1)C)=O)C | C15H24O
